US06544981B2
2-Cyano-3-[[(3S)-hexahydro-2-oxo-1-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1H-azepin-3-yl]amino]-3-[(2-methyl-6-benzofuranyl)amino]propenoic Acid Methyl Ester
In a procedure similar to that in example 36, the title compound (8 mg, 11%) was synthesized from 2-methyl-6-benzofuranamine (34 mg, 0.23 mmol), methyl 2-cyano-3,3-bis(methylthio)-2-propenoate (47 mg, 0.23 mmol), and 1-[[(3S)-3-aminohexahydro-2-oxo-1H-azepin-1-yl]acetyl]pyrrolidine (102 mg, 0.43 mmol) using acetonitrile as the reaction solvent: MS (ESI, pos, ion) m/z 494 (M+H); HPLC (method C) tR 3.6 min.

reactant | 2-methyl-6-benzofuranamine | 0.23 mmol, 34 mg | CC=1OC2=C(C1)C=CC(=C2)N | C9H9NO
reactant | methyl 2-cyano-3,3-bis(methylthio)-2-propenoate | 0.23 mmol, 47 mg | C(#N)C(C(=O)OC)=C(SC)SC | C7H9NO2S2
reactant | 1-[[(3S)-3-aminohexahydro-2-oxo-1H-azepin-1-yl]acetyl]pyrrolidine | 0.43 mmol, 102 mg | N[C@@H]1C(N(CCCC1)CC(=O)N1CCCC1)=O | C12H21N3O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Cyano-3-[[(3S)-hexahydro-2-oxo-1-[2-oxo-2-(1-pyrrolidinyl)ethyl]-1H-azepin-3-yl]amino]-3-[(2-methyl-6-benzofuranyl)amino]propenoic Acid Methyl Ester | 8 mg, 11% | COC(C(=C(NC1=CC2=C(C=C(O2)C)C=C1)N[C@@H]1C(N(CCCC1)CC(N1CCCC1)=O)=O)C#N)=O | C26H31N5O5
